US06586422B2
A solution of 395 mg (2.7 mmol) of 2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride [J. Heterocycl. Chem. 1971, 8(5), 779-83] in 5 ml of ethanol was treated at room temperature with 0.92 ml (5.4 mmol) of Huenig's base and, thereupon, with a solution of 501 mg (2.7 mmol) of crude 5-chloro-3-methylsulfanyl-[1,2,4]triazine-6-carbonitrile in 5 ml of ethanol. The dark brown reaction mixture was stirred during 18 h at room temperature. For the working-up, the product, partially precipitated in pure form, was filtered and the resulting mother liquor evaporated under reduced pressure. The residue was chromatographed on silica gel with a 2:1 v/v mixture of hexane and ethylacetate as the eluent. In total, 470 mg (58.5% of theory) of 3-methylsulfanyl-5-(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazine-6-carbonitrile were obtained in the form of a beige powder; MS: 298 (M+H)+.

reactant | 2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | 2.7 mmol, 395 mg | Cl.C1CNCCC2=C1C=CC=C2
reactant | Huenig's base | 5.4 mmol, 0.92 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-chloro-3-methylsulfanyl-[1,2,4]triazine-6-carbonitrile | 2.7 mmol, 501 mg | ClC=1N=C(N=NC1C#N)SC | C5H3ClN4S
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-methylsulfanyl-5-(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazine-6-carbonitrile | 470 mg, 58.5% | CSC=1N=NC(=C(N1)N1CCC2=C(CC1)C=CC=C2)C#N | C15H15N5S
